US05965553
Trans-7-chloro-5-(1 -naphthyl)-1 -(4-iodobutyl)-2-oxo-1,2,3,5-tetrahydro-4,1-benzoxazepine-3-acetonitrile
Trimethylaluminium (2M in toluene, 15.0 ml, 30.1 mmol) was added dropwise to a suspension of ammonium chloride (1.6 g, 30.1 mmol) in toluene (25 ml) at ice bath temperature under a nitrogen atmosphere. The resulting solution was stirred for 1 hour. Ethyl trans-7-chloro-5-(1-naphthyl)-1-(4-iodobutyl)-2-oxo-1,2,3,5-tetrahydro-4,1-benzoxazepine-3-acetate (5.1 g, 8.6 mmol) was added as a solid and the solution heated at 85° C. for 18 hours. The solution was cooled and acidified with 2 N hydrochloric acid cautiously. Ethyl acetate (100 ml) was added and the layers were separated. The organic layer was washed with 2 N hydrochloric acid. The combined acidic layers were re-extracted once with ethyl acetate. The combined organic layers were washed with 1N sodium hydroxide solution (2×), dried (MgSO4), concentrated under reduced pressure. The residue was purified by flash column chromatography (ethyl acetate/hexane 1:4→2:3) to give a solid which was recrystallized from ethyl acetate/hexane to afford the title compound (1.58 g, 34%) as a pink solid.

reactant | Trimethylaluminium | 30.1 mmol, 2M, 15.0 ml | C[Al](C)C
reactant | ammonium chloride | 30.1 mmol, 1.6 g | [Cl-].[NH4+]
reactant | Ethyl trans-7-chloro-5-(1-naphthyl)-1-(4-iodobutyl)-2-oxo-1,2,3,5-tetrahydro-4,1-benzoxazepine-3-acetate | 8.6 mmol, 5.1 g | ClC=1C=CC2=C([C@H](O[C@@H](C(N2CCCCI)=O)CC(=O)OCC)C2=CC=CC3=CC=CC=C23)C1 | C27H27ClINO4
reactant | hydrochloric acid | 2 N | Cl | ClH
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
solvent | Ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | Trans-7-chloro-5-(1 -naphthyl)-1 -(4-iodobutyl)-2-oxo-1,2,3,5-tetrahydro-4,1-benzoxazepine-3-acetonitrile | 1.58 g, 34% | ClC=1C=CC2=C([C@H](O[C@@H](C(N2CCCCI)=O)CC#N)C2=CC=CC3=CC=CC=C23)C1 | C25H22ClIN2O2
